US04232155
9-Cyclohexyl-2-(2-butylamino)-9H-adenine
Reaction of 2-chloro-9-cyclohexyl-9H-adenine with sec.-butylamine according to the procedure of Example 1 affords the title compound.

reactant | 2-chloro-9-cyclohexyl-9H-adenine | ClC1=NC(=C2N=CN(C2=N1)C1CCCCC1)N | C11H14ClN5
reactant | sec.-butylamine | C(C)(CC)N | C4H11N
product | 9-Cyclohexyl-2-(2-butylamino)-9H-adenine | C1(CCCCC1)N1C2=NC(=NC(=C2N=C1)N)NC(C)CC | C15H24N6
